US05223498
A mixture of 1-[2-(1-pyrrolidinyl)phenyl]thiourea (12.2 g), acetone (100 ml) and methanol (20 ml) was heated to 90°-95° C. Methyl iodide (8.36 g) was added and the mixture heated under reflux for 3 hours. The solvent was removed by evaporation to give a residue which was dried under vacuum (5 mm/Hg) to give 2-methyl-1-[2-(1-pyrrolidinyl)phenyl]-2-thiopseudourea hydroiodide (m.p. 139°-141° C.).

reactant | 1-[2-(1-pyrrolidinyl)phenyl]thiourea | 12.2 g | N1(CCCC1)C1=C(C=CC=C1)NC(=S)N | C11H15N3S
reactant | acetone | 100 ml | CC(=O)C | C3H6O
reactant | Methyl iodide | 8.36 g | CI | CH3I
solvent | methanol | 20 ml | CO | CH4O
product | 2-methyl-1-[2-(1-pyrrolidinyl)phenyl]-2-thiopseudourea hydroiodide | I.CSC(NC1=C(C=CC=C1)N1CCCC1)=N | InChI=1S/C12H17N3S.HI/c1-16-12(13)14-10-6-2-3-7-11(10)15-8-4-5-9-15;/h2-3,6-7H,4-5,8-9H2,1H3,(H2,13,14);1H
